US07279473B2
4-[6-(4-Fluorophenyl)pyrazolo[1,5-b]pyridazin-3-yl]-N-(4-methoxyphenyl)-2-pyrimidinamine
To a solution of 6-(4-fluorophenyl)-3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-b]pyridazine (42 mg, 0.124 mmol) in MeOH (2 mL) was added Oxone (77 mg, 0.124 mmol) in water (1 mL). The reaction mixture was stirred for about 2 hours then water (10 mL) was added. The aqueous layer was washed with EtOAc (3×40 mL) and aqueous NaHCO3 (1×20 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo to give a brown solid. This solid was-added to iPrOH (1.0 mL) and 4-methoxyaniline (20 mg, 0.162 mmol) in a sealed tube. The reaction mixture was heated at an oil bath temperature of 130° C. for about 16 hours. The mixture was cooled to RT and the solid collected by filtration to give the title compound as a brown solid (17 mg, 339% b). 1H-NMR (300 MHz, d6-DMSO) δ 9.41 (s, 1H), 9.14 (d, 1H, J=9.1 Hz), 8.88 (s, 1H), 8.41 (d, 1H, J=5.1 Hz), 8.22 (dd, 2H, J=8.5, 5.6 Hz), 8.02 (d, 1H, J=9.3 Hz), 7.62 (d, 2H, J=8.8 Hz), 7.42 (t, 2H, J=8.8 Hz), 7.30 (d, 1H, J=5.2 Hz), 6.94 (d, 2H, J=8.8 Hz), 3.75 (s, 3H); MS (ESI) (M+H)+ 413.

reactant | 6-(4-fluorophenyl)-3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-b]pyridazine | 0.124 mmol, 42 mg | FC1=CC=C(C=C1)C=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)SC | C17H12FN5S
reactant | Oxone | 0.124 mmol, 77 mg | OOS(=O)[O-].[K+]
reactant | iPrOH | 1.0 mL | CC(C)O | C3H8O
reactant | 4-methoxyaniline | 0.162 mmol, 20 mg | COC1=CC=C(N)C=C1 | C7H9NO
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 4-[6-(4-Fluorophenyl)pyrazolo[1,5-b]pyridazin-3-yl]-N-(4-methoxyphenyl)-2-pyrimidinamine | 17 mg, 339% | FC1=CC=C(C=C1)C=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)NC2=CC=C(C=C2)OC | C23H17FN6O
